US04652584
A solution of 3.75 g (0.01 mole) of 3-iodo-4-(oxiranylmethoxy)benzamide and 10.5 ml (0.1 mole) of t-butylamine in 7 ml of sulfolane was heated at 90° C. in an autoclave. After 2 hr the vessel was cooled and the t-butylamine was evaporated in vacuo. The residue was crystallized from CH2Cl2 /CH3CN to give 4.0 g (100% yield) of 4-[2-hydroxy-3-[(1,1-dimethylethyl)amino]propoxy]-3-iodobenzamide as a white crystalline solid, mp 111°-114° C.

reactant | 3-iodo-4-(oxiranylmethoxy)benzamide | 0.01 mole, 3.75 g | IC=1C=C(C(=O)N)C=CC1OCC1OC1 | C10H10INO3
reactant | t-butylamine | 0.1 mole, 10.5 ml | C(C)(C)(C)N | C4H11N
solvent | sulfolane | 7 ml | S1(=O)(=O)CCCC1 | C4H8O2S
product | 4-[2-hydroxy-3-[(1,1-dimethylethyl)amino]propoxy]-3-iodobenzamide | 4.0 g, 100% yield | OC(COC1=C(C=C(C(=O)N)C=C1)I)CNC(C)(C)C | C14H21IN2O3
